US04891363
6-[2,8-Bis(tetrahydropyran-2-yloxy)octyloxymethyl]-3,4-dihydro-2H-pyran
A solution of 1.049 g of 2,8-bis(tetrahydropyran-2-yloxy)-1-octanol (prepared as described in Preparation 72) in 10 ml of dimethylformamide was added, whilst ice-cooling, to a mixture of 0.152 g of sodium hydride (as a 55% dispersion in mineral oil) and 10 ml of dimethylformamide. The mixture was then stirred at room temperature for 1 hour. At the end of this time, a solution of the residue prepared as described in step (a) above dissolved in 15 ml of dimethylformamide was added to the mixture, which was then stirred at room temperature for 19 hours. It was then poured into 350 ml of water and extracted twice with ethyl acetate. The combined extracts were washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through 60 g of silica gel. 0.934 g of the title compound was obtained, as a colorless oil, from the fractions eluted with a 9:1 by volume mixture of hexane and ethyl acetate.

reactant | 2,8-bis(tetrahydropyran-2-yloxy)-1-octanol | 1.049 g | O1C(CCCC1)OC(CO)CCCCCCOC1OCCCC1 | C18H34O5
reactant | sodium hydride | 0.152 g | [H-].[Na+]
reactant | water | 350 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-[2,8-Bis(tetrahydropyran-2-yloxy)octyloxymethyl]-3,4-dihydro-2H-pyran | 0.934 g | O1C(CCCC1)OC(COCC1=CCCCO1)CCCCCCOC1OCCCC1 | C24H42O6
